US07566789B2
14.1 4.25 g (30.7 mmol) of potassium-carbonate are added to a solution of 2.65 g (15.4 mmol) of 5-chloro-2-nitroaniline and 1.66 g (1 5.4 mmol) of methyl thioglycolate in 14 ml of DMF, and the mixture is stirred at room temperature for 18 hours. The reaction mixture is introduced into water, and the resultant precipitate is filtered off, giving methyl (3-amino-4-nitrophenylsulfanyl)acetate as a yellow solid; ESI 243.

reactant | potassium-carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 5-chloro-2-nitroaniline | 15.4 mmol, 2.65 g | ClC=1C=CC(=C(N)C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | methyl thioglycolate | 5.4 mmol, 1.66 g | C(CS)(=O)OC | C3H6O2S
reactant | water | O | H2O
solvent | DMF | 14 ml | CN(C)C=O | C3H7NO
product | methyl (3-amino-4-nitrophenylsulfanyl)acetate | NC=1C=C(C=CC1[N+](=O)[O-])SCC(=O)OC | C9H10N2O4S
